US06110934
N-(2-Methyl-1,2,3,4-tetrahydroisoquinolin-5-yl)-4-n-butyl-2-methoxy-5-chloro-benzamide, Hydrochloride
The title compound was prepared in a similar manner to Example 1 from 5-amino-2-methyl-1,2,3,4-tetrahydroisoquinoline and 4-n-butyl-2-methoxy-5-chlorobenzoic acid.

reactant | 5-amino-2-methyl-1,2,3,4-tetrahydroisoquinoline | NC1=C2CCN(CC2=CC=C1)C | C10H14N2
reactant | 4-n-butyl-2-methoxy-5-chlorobenzoic acid | C(CCC)C1=CC(=C(C(=O)O)C=C1Cl)OC | C12H15ClO3
product | N-(2-Methyl-1,2,3,4-tetrahydroisoquinolin-5-yl)-4-n-butyl-2-methoxy-5-chloro-benzamide, Hydrochloride | Cl.CN1CC2=CC=CC(=C2CC1)NC(C1=C(C=C(C(=C1)Cl)CCCC)OC)=O | InChI=1S/C22H27ClN2O2.ClH/c1-4-5-7-15-12-21(27-3)18(13-19(15)23)22(26)24-20-9-6-8-16-14-25(2)11-10-17(16)20;/h6,8-9,12-13H,4-5,7,10-11,14H2,1-3H3,(H,24,26);1H
